US07713993B2
Synthesis of 3-(4-fluorobenzyl)-8-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine
Triphenylphosphine (28 mg) and water (0.3 mL) were added to a solution of 2-{4-azido-1-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}butyl}-5-(4-fluorobenzyl)[1,3,4]oxadiazole (50 mg) in THF (5 mL), and the reaction solution was heated under reflux for four hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. A solution of the residue in acetic acid (2 mL) was heated under reflux for three hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the residue, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: ethyl acetate->ethyl acetate:methanol=5:1) to obtain 40 mg of the title compound. The property values of the compound are as follows.

reactant | Triphenylphosphine | 28 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 0.3 mL | O | H2O
reactant | 2-{4-azido-1-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}butyl}-5-(4-fluorobenzyl)[1,3,4]oxadiazole | 50 mg | N(=[N+]=[N-])CCC\C(=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)\C=1OC(=NN1)CC1=CC=C(C=C1)F | C25H24FN7O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(4-fluorobenzyl)-8-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine | 40 mg | FC1=CC=C(CC2=NN=C/3N2CCC\C3=C/C3=CC(=C(C=C3)N3C=NC(=C3)C)OC)C=C1 | C25H24FN5O
